US07432279B2
4-[(3-bromo-4-methylphenyl)amino]-6-[(pyridine-3-ylmethyl)amino]-1,7-naphthyridine-3-carbonitrile
Following the procedure described above in Example 1, 4-[(3-bromo-4-methylphenyl)amino]-6-fluoro-[1,7]naphthyridine-3-carbonitrile (300 mg, 1.1 mmol, 1 eq) was reacted with pyridine-3-ylmethylamine (2.8 mL, 20 eq). The crude product was purified via preparative HPLC to obtain 55 mg product (14% yield): HRMS (ESI+) calcd for C22H17BrN6 445.0771 (M+H), found (M+H) 445.0761.

reactant | 4-[(3-bromo-4-methylphenyl)amino]-6-fluoro-[1,7]naphthyridine-3-carbonitrile | 1.1 mmol, 300 mg, 1 eq | BrC=1C=C(C=CC1C)NC1=C(C=NC2=CN=C(C=C12)F)C#N | C16H10BrFN4
reactant | pyridine-3-ylmethylamine | 2.8 mL, 20 eq | N1=CC(=CC=C1)CN | C6H8N2
product | 4-[(3-bromo-4-methylphenyl)amino]-6-[(pyridine-3-ylmethyl)amino]-1,7-naphthyridine-3-carbonitrile | 55 mg, 14% yield | BrC=1C=C(C=CC1C)NC1=C(C=NC2=CN=C(C=C12)NCC=1C=NC=CC1)C#N | C22H17BrN6
